US04337250
Following the procedure of Example 1, sodium hydride (3.63 g of 50% dispersion in oil, 0.15 mole), 1,6-dibromohexane (23.07 ml, 0.15 mole) and 2-piperidone (7.5 g, 0.076 mole) were reacted in dimethylformamide. The filtered, concentrated reaction mixture was taken up in 200 ml of water and 200 ml of hexane. The hexane layer was separated and evaporated to an oil. The oil was chromatographed on silica gel using ethyl acetate as eluant and tlc monitoring. Clean product-containing fractions were combined and evaporated to yield 1-(6-bromo-1-hexyl)-2-piperidone as an oil (3.66 g).

reactant | sodium hydride | 0.15 mole, 3.63 g | [H-].[Na+]
reactant | 1,6-dibromohexane | 0.15 mole, 23.07 ml | BrCCCCCCBr | C6H12Br2
reactant | 2-piperidone | 0.076 mole, 7.5 g | N1C(CCCC1)=O | C5H9NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
solvent | hexane | 200 ml | CCCCCC | C6H14
product | 1-(6-bromo-1-hexyl)-2-piperidone | 3.66 g | BrCCCCCCN1C(CCCC1)=O | C11H20BrNO
